US09359381B2
Step 1: 2-(((4-Methoxybenzyl)oxy)methyl)oxirane
p-Methoxybenzyl chloride (2.326 g, 14.85 mmol) was added slowly to a suspension of sodium hydride (60% dispersion in mineral oil, 0.594 g, 14.85 mmol) in DMF (25 mL) at 0° C. and the mixture stirred for 25 mins. Glycidol (1 g, 13.50 mmol) was then added dropwise over 25 mins, the mixture was allowed to warm to room temperature and stirred for 3 days. The mixture was diluted with EtOAc (50 ml) and washed with saturated NH4Cl (aq) (30 ml), saturated NaHCO3 (aq) (50 ml) and brine (100 ml). The organic phase was dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-10% EtOAc/hexane, afforded the title compound.

reactant | p-Methoxybenzyl chloride | 14.85 mmol, 2.326 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | sodium hydride | 14.85 mmol, 0.594 g | [H-].[Na+]
reactant | Glycidol | 13.50 mmol, 1 g | C1C(O1)CO | C3H6O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 2-(((4-Methoxybenzyl)oxy)methyl)oxirane | COC1=CC=C(COCC2OC2)C=C1 | C11H14O3
